US08703758B2
A) 2-chloro-5-methoxy-1,3-benzothiazole
A mixture of 5-methoxy-1,3-benzothiazole-2-thiol (500 mg), thionyl chloride (2 mL) and DMF (1 drop) was stirred at 50° C. for 3 days. Saturated aqueous sodium hydrogen carbonate solution was added to the reaction mixture, and the obtained mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (211 mg).

reactant | 5-methoxy-1,3-benzothiazole-2-thiol | 500 mg | COC=1C=CC2=C(N=C(S2)S)C1 | C8H7NOS2
reactant | thionyl chloride | 2 mL | S(=O)(Cl)Cl | Cl2OS
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 2-chloro-5-methoxy-1,3-benzothiazole | 211 mg | ClC=1SC2=C(N1)C=C(C=C2)OC | C8H6ClNOS
